US08119778B2
Preparation of the Starting Material 2-phenylazo-4-methylthio-phenol
5 g (53.7 mmoles) of aniline is dissolved in conc. HCl (13 ml)/water (90 ml) and diazotized with 3.89 g (56.4 mmoles) of sodium nitrite (dissolved in water (8 ml)), at 0-5° C. The resulting solution is slowly added to a solution of 7.52 g (53.7 mmoles) of 4-methylthiophenol in 2N NaOH (54 ml). After stirring overnight the mixture is neutralised with 2N HCl, the precipitate is filtered off, dried, and dissolved in toluene (800 ml). The solution is dried over anhydrous sodium sulfate, filtered through silica gel, and evaporated. Recrystallisation from methanol gives 7.53 g (57%) of dark brown crystals, m.p. 70-80° C.

reactant | aniline | 53.7 mmoles, 5 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium nitrite | 56.4 mmoles, 8 ml, 3.89 g | N(=O)[O-].[Na+]
reactant | 4-methylthiophenol | 53.7 mmoles, 7.52 g | CC1=CC=C(C=C1)S | C7H8S
solvent | HCl | 13 ml | Cl | ClH
solvent | water | 90 ml | O | H2O
solvent | NaOH | 2N, 54 ml | [OH-].[Na+]
solvent | HCl | 2N | Cl | ClH
product | 2-phenylazo-4-methylthio-phenol | 7.53 g, 57% | C1(=CC=CC=C1)N=NC1=C(C=CC(=C1)C)S | C13H12N2S
